US05078748
(A) Preparation of 2-((2-methoxyethyl)oxy)-5-trifluoromethyl-1,3-dinitrobenzene
54 g of 2-chloro-5-trifluoromethyl-1,3-dinitrobenzene are heated to 60° C. together with 64 g of ethylene glycolmonomethyl ether, and 23.5 g of 50 percent strength aqueous sodium hydroxide solution are added dropwise in the course of 30 minutes. The mixture is subsequently stirred at 60° C. for one hour, a further 5 g of sodium hydroxide solution are added and the mixture is subsequently stirred again at 60° C. for a further 1.5 hours. The mixture is then cooled, 50 ml of water are added and the product which has precipitated is filtered off and dried.

reactant | 2-chloro-5-trifluoromethyl-1,3-dinitrobenzene | 54 g | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
reactant | ethylene | 64 g | C=C | C2H4
reactant | ether | CCOCC | C4H10O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-((2-methoxyethyl)oxy)-5-trifluoromethyl-1,3-dinitrobenzene | COCCOC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C10H9F3N2O6
